US04568376
2-Phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran
In this example a solution containing 21.8 g of (3-trifluoromethylphenyl)-benzylcarbonyl-acetonitrile, dissolved in 60 ml of acetic acid was treated dropwise with a solution of 12.65 g of bromine in 20 ml of glacial acetic acid. The reaction mixture was stirred for about 16 hours at room temperature. The reaction mixture was poured into 250 ml of water and the resulting mixture was extracted three times with ethyl ether. The organic extracts were washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated in vacuo to yield 8.4 g of white solid which was dried affording 7.0 g of the title compound.

reactant | (3-trifluoromethylphenyl)-benzylcarbonyl-acetonitrile | 21.8 g | FC(C=1C=C(C=CC1)C(C#N)C(=O)CC1=CC=CC=C1)(F)F | C17H12F3NO
reactant | bromine | 12.65 g | BrBr | Br2
reactant | water | 250 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Phenyl-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | 8.4 g | C1(=CC=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N | C17H12F3NO2
